US07166590B2
(2R)-3-cyclohexylmethylthio-2-t-butoxycarbonylaminopropanoic acid
To a solution of L-cysteine (133 mg) in ethanol (10 ml), 2N aqueous solution of sodium hydroxide (1.1 ml) and (bromomethyl)cyclohexane (0.17 ml) were added. The mixture was stirred for 2.5 hours at room temperature. Two normal aqueous solution of sodium hydroxide (0.6 ml) and di-tert-butyl dicarbonate (0.28 ml) were added to the reaction mixture. The mixture was stirred for 1 hour. Ethanol was removed by evaporation from the reaction mixture and it was acidified by adding 1N hydrochloric acid and extraced with ethyl acetate. The extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate. The organic layer was concentrated and the residue was purified by silica gel column chromatography (chloroform:methanol=19:1) to give the title compound (135 mg) having the following physical data.

reactant | L-cysteine | 133 mg | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | sodium hydroxide | 1.1 ml | [OH-].[Na+]
reactant | (bromomethyl)cyclohexane | 0.17 ml | BrCC1CCCCC1 | C7H13Br
reactant | sodium hydroxide | 0.6 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 0.28 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (2R)-3-cyclohexylmethylthio-2-t-butoxycarbonylaminopropanoic acid | 135 mg | C1(CCCCC1)CSC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C15H27NO4S
